US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid [6-(3-hydroxy-propane-1-sulfonyl)-pyridin-3-ylmethyl]-amide (8)
The solution of 3-[5-({[1-(4-fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-pyridine-2-sulfonyl]-propionic acid methyl ester (33 mg, 0.066 mmol) in THF (5 mL) was treated with lithium borohydride (8.7 mg, 0.40 mmol) at room temperature and the mixture was warmed at reflux. After 1 hour, the reaction was cooled to room temperature, quenched with water (50 mL) and diluted with ethyl acetate (50 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with brine (20 mL), dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 0-10% MeOH in CH2Cl2 to afford the title compound.

reactant | 3-[5-({[1-(4-fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-pyridine-2-sulfonyl]-propionic acid methyl ester | 0.066 mmol, 33 mg | COC(CCS(=O)(=O)C1=NC=C(C=C1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F)=O | C24H21FN4O5S
reactant | lithium borohydride | 0.40 mmol, 8.7 mg | [BH4-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid [6-(3-hydroxy-propane-1-sulfonyl)-pyridin-3-ylmethyl]-amide | OCCCS(=O)(=O)C1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C23H21FN4O4S
